US08404465B2
There are no enzymes known in the art that catalyze the substrate L-2,3-dihydropicolinate to produce 5,6-dihydropyridine-2-carboxylate. However, there are a few decarboxylases that are able to decarboxylate ring mounted carboxylic acids. One skilled in the art would appreciate that it is likely that these enzymes may have, or could be engineered to have, activity towards L-2,3-dihydropicolinate. Examples of such decarboxylases include, but are not limited to, benzoylformate decarboxylase (EC 4.1.1.7), 3-hydroxy-2-methylpyridine-4,5-dicarboxylate decarboxylase (EC 4.1.1.51), pyrrole-2-carboxylase (EC 4.1.1.-), gallate decarboxylase (4.1.1.59), Dopa decarboxylase (EC 4.1.1.28), Phenylpyruvate decarboxylase (EC 4.1.1.43), 4,5-dihydroxyphthalate decarboxylase (EC 4.1.1.55), 5-dihydroxybenzoate decarboxylase (EC 4.1.1.62), Uracil-5-carboxylate decarboxylase (EC 4.1.1.66), and Cis-1,2-dihydroxycyclohexa-3,5-diene-1-carboxylate dehydrogenase (EC 1.3.1.25). In a subsequent step, the 5,6-dihydropyridine-2-carboxylic acid ring is opened in the presence of water to produce (E)-6-amino-2-oxohex-3-enoic acid. This reaction is similar to the hydration of 2,3,4,5-terahydropyridine-2-carboxylic acid (in the lysine degradation pathway) and is likely to be spontaneous in the presence of water.

reactant | benzoylformate | C(C1=CC=CC=C1)(=O)C(=O)[O-]
reactant | 3-hydroxy-2-methylpyridine-4,5-dicarboxylate | OC=1C(=NC=C(C1C(=O)[O-])C(=O)[O-])C
reactant | gallate | C(C1=CC(O)=C(O)C(O)=C1)(=O)[O-]
reactant | Dopa | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | Phenylpyruvate | C1(=CC=CC=C1)CC(C(=O)[O-])=O
reactant | 4,5-dihydroxyphthalate | OC=1C=C(C(C(=O)[O-])=CC1O)C(=O)[O-]
reactant | Uracil-5-carboxylate | N1C(=O)NC(=O)C(=C1)C(=O)[O-]
reactant | Cis-1,2-dihydroxycyclohexa-3,5-diene-1-carboxylate | C1=C[C@@H]([C@](C=C1)(C(=O)O)O)O | C7H8O4
solvent | water | O | H2O
product | (E)-6-amino-2-oxohex-3-enoic acid | NCC/C=C/C(C(=O)O)=O | C6H9NO3
